US07741321B2
To a suspension of crude 1-(3-chloromethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester (20.0 g) in water (350 mL) was added Bu4NBr (4.0 g) and Na2CO3 (90.0 g, 0.85 mol) at room temperature. The reaction mixture was heated at 65° C. overnight. The resulting solution was acidified with aq. HCl (2 mol/L) and extracted with EtOAc (200 mL×3). The organic layer was washed with brine, dried over anhydrous Na2SO4 and evaporated under vacuum to give crude product, which was purified by column (Petroleum Ether/EtOAc 15:1) to give 1-(3-hydroxymethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester (8.0 g, 39%). 1H NMR (CDCl3, 400 MHz) δ 7.23-7.26 (m, 2H), 6.83 (d, J=8.0 Hz, 1H), 4.67 (s, 2H), 3.86 (s, 3H), 3.62 (s, 3H), 1.58 (q, J=3.6 Hz, 2H), 1.14-1.17 (m, 2H).

reactant | 1-(3-chloromethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 20.0 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)OC)CCl | C13H15ClO3
reactant | Na2CO3 | 0.85 mol, 90.0 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2 mol/L | Cl | ClH
solvent | water | 350 mL | O | H2O
catalyst | Bu4NBr | 4.0 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 1-(3-hydroxymethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 8.0 g, 39% | COC(=O)C1(CC1)C1=CC(=C(C=C1)OC)CO | C13H16O4
